US07812019B2
A solution of phosgene (20% in toluene, 2.9 mL, 5.5 mmol) of dichloromethane (30 mL)was cooled to 0° C. and treated dropwise with a solution of 4-dimethylaminopyridine (1.43 g, 11.7 mL) in dichloromethane (15 mL). A thick white suspension formed. A solution of 3-methyl-isoquinolin-5-ylamine (0.79 g, 5 mmol) in tetrahydrofuran (20 mL) was then added dropwise to this suspension. The reaction mixture was allowed to warm to ambient temperature and stirred overnight, the solvent was removed under reduced pressure, and the residue titurated with 50 mL of diethyl ether to give an approximately 0.1 M solution of 3-methyl-5-isocyanato-isoquinoline.

reactant | phosgene | 5.5 mmol, 2.9 mL | C(=O)(Cl)Cl | CCl2O
reactant | 3-methyl-isoquinolin-5-ylamine | 5 mmol, 0.79 g | CC=1N=CC2=CC=CC(=C2C1)N | C10H10N2
catalyst | 4-dimethylaminopyridine | 11.7 mL, 1.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-methyl-5-isocyanato-isoquinoline | CC=1N=CC2=CC=CC(=C2C1)N=C=O | C11H8N2O
